US07902248B2
(E)-5-[2-(3-Chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-acetylamino]-pyrazole-1-carboxylic acid tert-butyl ester (30 mg, 0.06 mmol) was dissolved in dioxane (1 mL). A 4.0 M solution of hydrochloric acid in dioxane (1 mL, 4 mmol) was added. After stirring 1 h, the volatiles were evaporated in vacuo and the residue was diluted with chloroform (3 mL) and washed with 10% aqueous potassium carbonate solution (1 mL). The aqueous phase was extracted with chloroform (2 mL) and the combined organic phases were filtered through sodium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 2% methanol/chloroform) to afford (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-N-(1H-pyrazol-3-yl)-acetamide (14 mg, 59%) as a white solid after lyophilization from aqueous dioxane: LC-MS (ESI) m/e calcd for C15H17ClN4O4S [M+] 384.07, found 385 [M+H+]; H1-NMR (400 MHz, CDCl3) δ ppm 1.35 (d, J=6.3 Hz, 6 H, 2×CH3), 3.32 (s, 3 H, SO2CH3), 4.60 (m, J=6.3 Hz, 1 H, OCH), 6.77 (brs, 1H, Ar), 7.53 (d, J=2.3 Hz, 1 H, Ar), 7.58 (dd, Jo=8.2, Jm=1.5 Hz, 1 H, Ar), 7.68 (d, Jm=1.5 Hz, 1 H, Ar), 8.20 (d, Jo=8.2 Hz, 1 H, Ar), 9.25 (s, 1 H, NH).

reactant | (E)-5-[2-(3-Chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-acetylamino]-pyrazole-1-carboxylic acid tert-butyl ester | 0.06 mmol, 30 mg | C(C)(C)(C)OC(=O)N1N=CC=C1NC(/C(=N/OC(C)C)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C20H25ClN4O6S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-N-(1H-pyrazol-3-yl)-acetamide | 14 mg, 59% | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)NC1=NNC=C1)=N/OC(C)C | C15H17ClN4O4S
